US08378104B2
Step C: 1-(tetrahydro-2H-pyran-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole-3-carbonitrile
A solution of 5-bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole-3-carbonitrile (175 mg, 0.572 mmol), bis(pinacolato)diboron (174 mg, 0.686 mmol), potassium acetate (168 mg, 1.71 mmol), and 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) dichloride dichloromethane complex (35.0 mg, 0.0429 mmol) in dimethyl sulfoxide (2.3 mL) was heated to 85° C. for 3 h. The reaction mixture was poured into ethyl acetate (100 mL) and washed with water (3×50 mL) and saturated aqueous sodium chloride (1×50 mL). The organic fraction was dried over sodium sulfate, filtered, and concentrated onto silica gel. Purification by ISCO chromatography (10 to 40% ethyl acetate:heptane) afforded 55 mg (24%) of the title compound as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 8.14 (t, J=0.9 Hz, 1 H), 7.98 (dd, J=0.8, 8.6 Hz, 1 H), 7.83 (dd, J=0.8, 8.6 Hz, 1 H), 6.08 (dd, J=2.4, 9.2 Hz, 1 H), 3.98-3.62 (m, 2 H), 2.43-2.20 (m, 1 H), 2.15-1.89 (m, 2 H), 1.88-1.65 (m, 1 H), 1.67-1.52 (m, 2 H), 1.33 (s, 12 H); MS (APCI): 354.19 [M+H]+; HPLC tR=3.65 min (ZQ3, nonpolar—4 min).

reactant | 5-bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole-3-carbonitrile | 0.572 mmol, 175 mg | BrC=1C=C2C(=NN(C2=CC1)C1OCCCC1)C#N | C13H12BrN3O
reactant | bis(pinacolato)diboron | 0.686 mmol, 174 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.71 mmol, 168 mg | C(C)(=O)[O-].[K+]
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 2.3 mL | CS(=O)C | C2H6OS
product | 1-(tetrahydro-2H-pyran-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole-3-carbonitrile | 55 mg, 24% | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C)C#N | C19H24BN3O3
